US04597902
N-[2-[(3,4-Dichlorophenyl)sulfonyl]ethyl]-2-propanamine
A solution of 44.27 g (0.107 mole) of N-[2-[(3,4-dichlorophenyl)sulfonyl]ethyl]-N-(1-methylethyl)carbamic acid phenyl ester in 300 ml of 48% HBr was heated at reflux for 12 hr. The reaction mixture was cooled to room temperature, made alkaline with 50% sodium hydroxide-ice and extracted with chloroform. The chloroform layer was extracted with 1N sulfuric acid. The sulfuric acid layer was extracted with chloroform and the chloroform layers combined and evaporated to an oil, the free base of the title compound. A portion of the oil was reacted with ethereal hydrogen chloride to give an overall yield of 32.4% white crystaline product, m.p. 219°-221° C.

reactant | N-[2-[(3,4-dichlorophenyl)sulfonyl]ethyl]-N-(1-methylethyl)carbamic acid phenyl ester | 0.107 mole, 44.27 g | C1(=CC=CC=C1)OC(N(C(C)C)CCS(=O)(=O)C1=CC(=C(C=C1)Cl)Cl)=O | C18H19Cl2NO4S
solvent | HBr | 300 ml | Br | BrH
product | N-[2-[(3,4-Dichlorophenyl)sulfonyl]ethyl]-2-propanamine | yield of 32.4% | ClC=1C=C(C=CC1Cl)S(=O)(=O)CCNC(C)C | C11H15Cl2NO2S
